US08034895B2
Synthesis of N2-((9H-fluoren-2-yl)methylene)-N7-((9H-fluoren-7-yl)methylene)-9H-fluorene-2,7-diamine
Fluorenecarboxaldehyde (99 mg, 0.51 mmol) was added to 2,7-diaminofluorene (50 mg, 0.25 mmol) in anhydrous isopropanol, under an N2 atmosphere and a catalytic amount of TFA. No heating was required. The reaction was run for 12 hours. The title compound was obtained as an orange precipitate (140 mg).

reactant | Fluorenecarboxaldehyde | 0.51 mmol, 99 mg | C1(=CC=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | 2,7-diaminofluorene | 0.25 mmol, 50 mg | NC1=CC=2CC3=CC(=CC=C3C2C=C1)N | C13H12N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | isopropanol | C(C)(C)O | C3H8O
product | N2-((9H-fluoren-2-yl)methylene)-N7-((9H-fluoren-7-yl)methylene)-9H-fluorene-2,7-diamine | C1=C(C=CC=2C3=CC=CC=C3CC12)C=NC1=CC=2CC3=CC(=CC=C3C2C=C1)N=CC1=CC=C2C=3C=CC=CC3CC2=C1 | C41H28N2
